US07982071B2
Alkylation reaction of 3-hydroxybenzaldehyde with styrene oxide gave 3-(2-hydroxy-2-phenylethoxy)benzaldehyde as a clear oil. Yield (0.9 g, 48%): 1H NMR (400 MHz, CDCl3) δ 9.89 (s, 1H), 7.23-7.41 (m, 8H), 7.16 (d, J=8.0 Hz, 1H), 5.35 (dd, J=8.2, 3.4 Hz, 1H), 3.93-4.0 (m, 1H), 3.82-3.89 m, 1H).

reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | styrene oxide | C1C(C2=CC=CC=C2)O1 | C8H8O
product | 3-(2-hydroxy-2-phenylethoxy)benzaldehyde | OC(COC=1C=C(C=O)C=CC1)C1=CC=CC=C1 | C15H14O3
